US09101616B2
Step-2: Methyl 4-methylindole-2-carboxylate
Methyl 3-(2-methyl-6-nitrophenyl)propenoate (0.24 g, 1.1 mmol) was dissolved in triethylphosphite (1 mL) and heated under reflux for 20 h. The solvent was removed in vacuo and the crude product was purified by silica gel chromatography (EtOAc:hexane=8:92) to give 0.15 g (71% yield) of the title compound as a pale yellow solid:

reactant | Methyl 3-(2-methyl-6-nitrophenyl)propenoate | 1.1 mmol, 0.24 g | CC1=C(C(=CC=C1)[N+](=O)[O-])C=CC(=O)OC | C11H11NO4
solvent | triethylphosphite | 1 mL | C(C)OP(OCC)OCC | C6H15O3P
product | Methyl 4-methylindole-2-carboxylate | 0.15 g, 71% yield | CC1=C2C=C(NC2=CC=C1)C(=O)OC | C11H11NO2
